US06103718
F. (cis)-2-(3-Ethoxy-4-methoxybenzoyl)-1,2,3,6-tetrahydrobenzoic Acid
Prepared from 1-Bromo-3-ethoxy-4-methoxybenzene and tetrahydrophthalic anhydride as described for compound D. M.p. 132-135° C.

reactant | 1-Bromo-3-ethoxy-4-methoxybenzene | BrC1=CC(=C(C=C1)OC)OCC | C9H11BrO2
reactant | tetrahydrophthalic anhydride | C1(C2C(C(=O)O1)CCC=C2)=O | C8H8O3
product | (cis)-2-(3-Ethoxy-4-methoxybenzoyl)-1,2,3,6-tetrahydrobenzoic Acid | C(C)OC=1C=C(C(=O)[C@@H]2[C@H](C(=O)O)CC=CC2)C=CC1OC | C17H20O5
